* C:\Users\avent\Downloads\LTC1871_Rev2_1.asc
* Generated by LTspice 24.1.10 for Windows.
M§Q1 N002 N005 0 0 IRF7811
R1 N006 0 68.1K
R2 N007 0 56K
R3 OUT N007 499K
L1 IN N002 10µ
D1 N002 OUT MBR735
C1 OUT 0 150µ Rser=.05 x2
R4 N004 N003 8.66K
C2 N003 0 6800p
C3 N004 0 100p
X§U1 IN N004 N007 N006 0 0 N005 N001 IN N002 LTC1871 ;§pnba Run)Ith)FB)Freq)Mode)GND)Gate)INTVcc)Vin)Sense
V1 IN 0 {VIN}
C4 N001 0 4.7µ
Rload OUT 0 6
.model D D
.lib C:\Users\avent\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\avent\AppData\Local\LTspice\lib\cmp\standard.mos
.param VIN=9.6
.step param VIN list 8 9.6 11
.tran 2m startup
.meas TRAN Vout_avg AVG V(OUT) FROM 1m TO 2m
.meas TRAN Vout_ripple PP V(OUT) FROM 1.5m TO 2m
* EE499 FYP -- LTC1871 Boost Converter | Rev2 -- Corrected FYP Values (VIN=8-11V, VOUT=12V, L=10uH) | Fortune Olose | Maynooth University
* Rev2 Changes: L=10uH, R1=68.1K(350kHz), R2=56K, R3=499K(VOUT=12.19V), R4=8.66K, C3=100p, VIN={VIN} param
* STATUS: Line regulation sweep -- VIN=8/9.6/11V. For transient run replace Rload with PWL current source.
.lib LTC1871.sub
.backanno
.end
