* C:\Users\avent\Downloads\LTC1871_SEPIC_FYP.asc
* Generated by LTspice 24.1.10 for Windows.
M§Q1 N003 N006 0 0 IRF7811
R1 N007 0 68.1K
R2 N008 0 56K
R3 OUT N008 499K
L1 IN N003 10µ Rser=0.010
D1 N004 OUT MBR735
C1 N005 0 6800p Rser=22K Cpar=47p
V1 IN 0 {VIN}
L2 0 N004 10µ Rser=0.010
C2 IN 0 47µ Rser=0.002
C3 N004 N003 10µ Rser=0.002
R4 IN N002 1Meg
C4 0 OUT 10µ Rser=0.002 x2
X§U1 N002 N005 N008 N007 N001 0 N006 N001 IN N003 LTC1871-1 ;§pnba Run)Ith)FB)Freq)Mode)GND)Gate)INTVcc)Vin)Sense
C5 OUT 0 47µ Rser=.01 x2
C6 N001 0 4.7µ
Rload OUT 0 6
.model D D
.lib C:\Users\avent\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\avent\AppData\Local\LTspice\lib\cmp\standard.mos
K1 L1 L2 1
.tran 5m startup
* EE499 FYP - LTC1871-1 SEPIC Topology Exploration\nModified from datasheet Fig.18A for FYP parameters\nInput: 8-11V (3S LiPo)      Output: 12.19V @ 2A      fsw: 350kHz
.param VIN=9.6
.step param VIN list 8 9.6 11
.meas TRAN Vout_avg AVG V(OUT) FROM 3m TO 5m
.meas TRAN Vout_ripple PP V(OUT) FROM 4m TO 5m
.meas TRAN IL1_peak MAX I(L1) FROM 3m TO 5m
.meas TRAN IL2_peak MAX I(L2) FROM 3m TO 5m
.meas TRAN Pin AVG V(IN)*(-I(V1)) FROM 4m TO 5m
.meas TRAN Pout AVG V(OUT)*V(OUT)/6 FROM 4m TO 5m
* FYP: R1=68.1K(350kHz) R2=56K R3=499K(12.19V) Q1=IRF7811
* SEPIC D=57.5%@9.6V | D>50% slope comp active | L1=L2=10uH coupled
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC1871-1.sub
.backanno
.end
