* C:\Users\avent\Downloads\LTC1871_Startup_CSS.asc
* Generated by LTspice 24.1.10 for Windows.
M§Q1 N003 0 0 0 IRF7811
R1 N006 0 68.1K
R2 N007 0 56K
R3 OUT N007 499K
L1 IN N003 10µ
D1 N003 OUT MBR735
C1a OUT 0 132µ Rser=0.00021
C1b OUT 0 20µ Rser=0.00125
R4 N005 N004 8.66K
C2 N004 0 6.8n
C3 N005 0 100p
X§U1 N002 N005 N007 N006 0 0 0 N001 IN N003 LTC1871 ;§pnba Run)Ith)FB)Freq)Mode)GND)Gate)INTVcc)Vin)Sense
V1 IN 0 9.6
C4 N001 0 4.7µ
I1 OUT 0 2
CSS N002 NC_01 {Css_val}
.model D D
.lib C:\Users\avent\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\avent\AppData\Local\LTspice\lib\cmp\standard.mos
.param Css_val=10n
.step param Css_val list 1n 2.2n 4.7n 10n 22n 47n
.tran 0 5m 0
.meas TRAN Vout_peak MAX V(OUT)
.meas TRAN Vout_SS AVG V(OUT) FROM 4m TO 5m
.meas TRAN overshoot PARAM (Vout_peak - Vout_SS) / Vout_SS * 100
.meas TRAN t_settle FIND TIME WHEN V(OUT)=12.24 FALL=1
.meas TRAN t_settle2 FIND TIME WHEN V(OUT)=12.00 CROSS=2
* FILE 2: LTC1871_Startup_CSS.asc â SOFT-START CAPACITOR PARAMETRIC SWEEP
* PURPOSE: Find minimum CSS that reduces startup overshoot to safe level (<10% = <13.2V peak)
* CSS connected: RUN pin â GND | Soft-start time: t_ss = CSS Ã 1.2V / 2ÂµA
* CSS sweep: 1nF(0.6ms) | 2.2nF(1.3ms) | 4.7nF(2.8ms) | 10nF(6ms) | 22nF(13ms) | 47nF(28ms)
* CONFIG: VIN=9.6V | Iload=2A DC | Full startup capture (.tran 0 5m 0)
* OBSERVE: Plot V(OUT) for all steps â find minimum CSS where Vout_peak < 13.2V
* HARDWARE CONSTRAINT: CSS must be 0402 MLCC to fit footprint â 10nF 0402 X7R is standard
* Based on: LTC1871_Startup_NoCSS.asc | Added: CSS from RUN pin to GND
.lib LTC1871.sub
.backanno
.end
